US04670450
4-Ethyl-5-pyridin-4-yl-2(3H)thiazolone
1-(4-Pyridyl)-1-bromo-2-butanone (28.8 g, 0.1 mol) and 1-acetyl-2-thiourea (13.0 g, 0.11 mol) are combined in 200 ml absolute ethanol and refluxed 24 hours. The solvent is evaporated and the residue is purified by chromatography. The thiol is mixed with (8.1 g, 0.1 mol) potassium cyanate and 0.2 mol 10% aqueous hydrochloric acid. The mixture is heated to 80° C. for 15 minutes, then cooled. The acid is adjusted to ph=6.5 with solid sodium bicarbonate which causes the product to precipitate.

reactant | 1-(4-Pyridyl)-1-bromo-2-butanone | 0.1 mol, 28.8 g | N1=CC=C(C=C1)C(C(CC)=O)Br | C9H10BrNO
reactant | 1-acetyl-2-thiourea | 0.11 mol, 13.0 g | C(C)(=O)NC(=S)N | C3H6N2OS
reactant | potassium cyanate | 0.1 mol, 8.1 g | [O-]C#N.[K+]
reactant | hydrochloric acid | 0.2 mol | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-Ethyl-5-pyridin-4-yl-2(3H)thiazolone | C(C)C=1NC(SC1C1=CC=NC=C1)=O | C10H10N2OS
